datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:9])[H:10],52.1326
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[O:5]1)([H:7])([H:8])[H:9].[O:6][H:17],64.441968
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:9])([H:10])[H:11],42.4258
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[O:4][H:13])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14]([O:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14][O:15][H:17],4.26768
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])[H:7])([H:5])[H:6],41.9237
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[H:8]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][H:8],13.8072
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:20])[H:21])[H:19])[H:9],58.6597
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:17])[H:11],102.634
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]1([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],17.2799
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[S:9]=[C:10][S:11][H:12]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10](=[S:9])[S:11][H:12],46.8608
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14](=[S:15])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13]([C:14](=[S:15])[H:18])([H:16])[H:17],23.8488
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7](=[S:8])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:9])([H:10])[H:11])([C:7](=[S:8])[H:13])[H:12],123.428
[S:0]([S:1][H:3])[H:2].[S:4][c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15]>>[H:2][S:4][c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15].[S:0][S:1][H:3],-7.1128
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:6],80.793
[C:0]([C:1]([C:2]([O:3][O:4][H:13])([H:11])[H:12])([O:5][O:6])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([O:3][O:4][H:13])[H:12])([O:5][O:6][H:11])[H:10])([H:7])([H:8])[H:9],116.734
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12](=[S:13])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([C:12](=[S:13])[H:16])([H:14])[H:15],79.496
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([C:15](=[S:16])[H:24])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:20])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15](=[S:16])[H:24])([H:17])([H:18])[H:19],54.141
